*****************************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
* Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: AMC1302
* Precision, ±50-mV Input, Reinforced Isolated Amplifier
* Date: 07/28/2020
* Model Type: TINA
* Simulator: TINA-TI
* Simulator Version: 7.0.30.267 SF-TI
* Datasheet: SBAS812 JUNE 2018
*
*****************************************************************************
* version 1.1:
*
*****************************************************************************
* AMC1302 SUBCIRCUIT
* Precision, ±50-mV Input, Reinforced Isolated Amplifier
** source AMC1302
.SUBCKT AMC1302 VDD1 INP INN GND1 GND2 OUTN OUTP VDD2
XD7         INN VDD1 D_D2_0
XD8         10 INN D_ZR_5V3_0
XD6         11 INP D_ZR_5V3_0
XDFilter    POut1_12 VOCM NOut1_13 INP_14 GND2 DFilter_0
XD10        10 GND1 D_ZR_5V3_0
XD9         11 GND1 D_ZR_5V3_0
XFilter     POut1_12 NOut1_13 GND2 VDD2 OUTN VOCM OUTP Filter_Block_0
XD5         INP VDD1 D_D2_0
XD4         GND2 OUTN D_D2_1
XD3         OUTN VDD2 D_D2_1
XD2         GND2 OUTP D_D2_1
XD1         OUTP VDD2 D_D2_1
XGain       POut1_15 NOut1_17 VDD1 GND1 VDD2 GND2 INP_14 GND2 FSO VGAIN_0
R3          GND2 GND1 100G
C1          GND2 GND1  1.2P
RIO         VDD2 VDD1 100G
CIO         VDD2 VDD1  1.2P
XInput      INP INN GND2 POut1_15 FSO VDD1 GND1 NOut1_17 Input_circuit_0

.ENDS

.SUBCKT DFilter_0 POut1 VOCM NOut1 INP GND2
R25         18 GND2 1
GVCCS3      18 GND2 19 GND2  -1
GVCCS2      NOut1 VOCM VALUE = {0.5*V(18,GND2)}
GVCCS1      VOCM POut1 VALUE = {0.5*V(18,GND2)}
R22         VOCM NOut1 1
R21         POut1 VOCM 1
R6          20 INP 200K
C6          19 GND2  428.833333F
C4          18 20  885.333333F
R5          19 20 200K
.ENDS

.SUBCKT Filter_Block_0 INP INN GND2 VDD2 VOUTN VOCM VOUTP
VPSref      34 GND2 3.3
XOutputn VM_22 Neg_28 IGND_26 Bias IAVDD_27 VOUTN VDD2 Plus_29 GND2 Vt0p Vt0
+ Output_0
R21ops      30 0 29
L2ops       30 0  3.076996U
R1          31 30 1
R11ops      32 0 59
L1ops       32 0  47.424958U
R1ops       33 32 1
G2ops       0 31 33 0  1
G1ops       0 33 34 VDD2  63.231394U
R22ops      35 0 10
C2ops       Veps 35  321.525138P
R3ops       Veps 0 990
G3ops       0 Veps 31 0  1.010101M
XBias       IAVDD_27 VDD2 IGND_26 GND2 Bias VM_22 Vt0p Vt0 VOCM Bias_0
XOutputp VM_22 Neg_36 IGND_26 Bias IAVDD_27 VOUTP VDD2 Plus_37 GND2 Vt0p Vt0
+ Output_0
C7          38 39  2.766892P
EVCVS2      38 GND2 41 GND2  1
EVCVS1      40 GND2 42 GND2  1
R16         43 INP 200K
C8          42 41  1.135135P
R15         39 INN 200K
R14         41 39 200K
C5          40 43  2.766892P
R11         42 43 200K
R8          44 40 200K
Epsp        VOCM Plus_37 Veps 0  -1
Epsn        Plus_29 VOCM Veps 0  -1
C3          44 45  3.618243P
R7          45 38 200K
C4          VOUTP Neg_36  780.405405F
R6          Neg_36 45 100K
R5          VOUTP 45 200K
C2          VOUTN Neg_28  780.405405F
R3          Neg_28 44 100K
R2          VOUTN 44 200K
.ENDS

.SUBCKT Output_0 VM Neg IGND Bias IAVDD OUT VDD2 Plus GND2 Vt0p Vt0
VAM2        50 VGN_48 ; Current Arrow
VAM1        53 OUT ; Current Arrow
Vo21        IAVDD 56 695.218247M
Vo22        51 IGND 695.218247M
XD5         VGP_47 VDD2 D_LIM100_05_0
XD3         GND2 VGN_48 D_LIM100_05_0
XD6         49 VGP_47 D_LIM100_05_0
XD1         51 VV_46 D_LIM1_0
XD4         VGN_48 52 D_LIM100_05_0
RO2         VDD2 54 10
RO1         55 GND2 10
XD2         VV_46 56 D_LIM1_0
C33         VV_46 VM  15.915494F
XT7         53 VGP_47 54 VDD2 Q_PMOS_OUT_L1_0
+ PARAMS: M=25 W=20U L=0.8U
XT2         OUT VGN_48 55 GND2 Q_NMOS_OUT_L1_0
+ PARAMS: M=25 W=20U L=0.8U
EVMP2       VDD2 49 VALUE = {LIMIT(1.05*V(VDD2,Vt0p),0,V(VDD2,GND2))}
EVMN2       52 GND2 VALUE = {LIMIT(1.05*V(Vt0,GND2),0,V(VDD2,GND2))}
Ro23        VM Neg 100G
Ro22        Plus VM 100G
Ro21        Neg Plus 1G
Co21        Neg Plus  10F
Rdn2        VGP_47 Vt0p 2.041402MEG
Gdn2        Vt0p VGP_47 VM VV_46  146.95U
Rdn1        50 Vt0 2.041402MEG
Gdn1        Vt0 50 VM VV_46  146.95U
Cf5         OUT 50  1P
Cf4         VGP_47 OUT  1P
Co23        VM Neg  10F
RCo23_RPAR  VM Neg 1T
Co22        Plus VM  10F
RCo22_RPAR  Plus VM 1T
R83         VV_46 VM 100K
G23         VM VV_46 Plus Neg  10U
.ENDS

.SUBCKT Bias_0 IAVDD VDD2 IGND GND2 Bias VM Vt0p Vt0 VOCM
VS2         59 60 1.2
XU5         0 Vocmtemp VOCMTEMP_0
EVSOCM      VOCM GND2 VALUE = {LIMIT(V(Vt0,GND2)*2,0,(1.4461-1.8182M*V(VDD2,GND2))*V(Vocmtemp,0))}
GIb2        IGND Bias VALUE = {48.98M*V(VDD2,GND2)+730.612M}
Rb3         Bias IGND 1 TC=970U,-77N
R3          60 GND2 10MEG
R2          VDD2 61 10MEG
EVCVS1      VM IGND VALUE = {0.5*V(IAVDD,IGND)}
EAVDD       IAVDD IGND VALUE = {5*V(Bias,IGND)}
EGND        IGND 0 GND2 0  1
EBMG        62 GND2 Vt0 GND2 1
XT4         61 61 VDD2 VDD2 Q_PMOS_OUT_L1_1
+ PARAMS: M=1 W=10U L=4U
XT1         VT1 62 GND2 GND2 Q_NMOS_OUT_L1_1
+ PARAMS: M=9 W=21U L=0.8U
XT3         60 60 GND2 GND2 Q_NMOS_OUT_L1_2
+ PARAMS: M=1 W=10U L=4U
XD2         59 61 D_LIM1_1
Rsp1        VDD2 VT1 2.111111K
GIb1        61 60 Bias IGND  10U
Rpsrr1      61 60 10MEG
EVMP1       Vt0p VDD2 61 VDD2  1
EVMN1       Vt0 GND2 60 GND2  1
.ENDS

.SUBCKT Input_circuit_0 VINP VINN GND2 POut1 FSO VDD1 GND1 NOut1
VCMref      CMref GND1 667M
VPSref      100 GND1 5
XD4         GND1 79 D_D2_2
XD3         79 VDD1 D_D2_2
XD2         GND1 80 D_D2_2
XD5         80 VDD1 D_D2_2
XD1         VICM VDD1 D_D2_2
XBias       GND1 IGND_74 IAVDD_78 VM_77 VDD1 SHTDN Bias_1
XU1         VDD1 GND1 SHTDN IGND_74 HYSTCOMPG_THLRF_0
+ PARAMS: VTHRES=2.73 VHYST=200M VOUTH=1 VOUTL=0 ROUT=100 TDLH=499U TDHL=1U
+ TRISE=100N TFALL=100N
Rint21      79 Neg_82 2.38K
Rint11      80 Plus_83 2.38K
Cin1        80 79  16P
GVCCS1      IGND_74 FSO VALUE = {IF(V(SHTDN,IGND_74)<0.5|V(84,IGND_74)<0.5,1,0)}
R11         FSO IGND_74 1
XU2         VDD1 VICM 84 IGND_74 HYSTCOMPGD_0
+ PARAMS: VTHRES=2 VHYST=45.0M VOUTH=1 VOUTL=0 ROUT=100 DELAY=1N
Eios        85 80 VALUE = {V(96,0)+V(87,0)+ 50.1187N*V(GND1,GND2)+V(VOS,0)+V(90,0)}
L3          86 0  3.693334U
R10         86 0 999
R9          87 86 1
Gnoise      0 87 0 88  28.675301M
L2          89 0  2.864789U
R8          89 0 9
R7          90 89 1
G88ps       0 90 0 91  1
Rfb1        80 NOut1 50K TC=21.6667U
Rfb2        79 92 50K TC=21.6667U
Rint1       VINP 85 2.5K TC=21.6667U
Rint2       VINN 79 2.5K TC=21.6667U
Eps         92 POut1 POLY(1) 90 0 0 1N
R6          94 0 4.011872
L1          94 0  1.273994M
R5          91 94 1
C2          95 0  29.47314N
R4          95 0 9
R3          96 95 1
R210        97 0 1.2
L4          97 0  454.728409U
R20         98 97 1
G88         0 96 0 98  110M
G8ps        0 91 100 VDD1  6.309573U
G8          0 98 CMref VLCM  9.5U
XU5         0 VOS VOST_0
R2          VICM VINN 100K
R1          VINP VICM 100K
Enoise      POut 92 POLY(1) 87 0 0 5
Rnoise2     88 0 4.8263MEG
Rnoise1     88 0 4.8263MEG
C37         VINN GND1  4P
C38         VINP GND1  4P
Cfb2        Neg_82 POut  800F
Cfb1        Plus_83 NOut1  800F
XInput1 VM_77 Neg_82 IGND_74 VLCM IAVDD_78 NOut1 VDD1 POut Plus_83 GND1 VICM
+ Input1_0
.ENDS

.SUBCKT Bias_1 GND1 IGND IAVDD VM VDD1 SHTDN
C1          102 GND1  100P
Rp1         VDD1 GND1 3.846154MEG TC=-6M,22U
GIS1        102 GND1 VALUE = {(5.90M*(973.4933M+TEMP*1060.3U)+V(102,GND1)/1.9231K)*(V(SHTDN,GND1))}
EVSVM       VM IGND IAVDD IGND  400M
EAVDD       IAVDD IGND VALUE = {LIMIT(5*(V(VDD1,GND1)-1.4),5,0)}
Rs4         102 GND1 1.923077G TC=-6M,22U
XD1         GND1 102 D_D4_0
XDZb1       102 VDD1 D_ZB1_0
EGND        IGND 0 GND1 0  1
.ENDS

.SUBCKT Input1_0 VM Neg IGND VLCM IAVDD NOut VDD1 POut Plus GND1 VICM
.PARAM EGdc= {0.100}
.PARAM Ndc= {0.1}
.PARAM RSdc= {10}
VIvcvs3     110 106 ; Current Arrow
VIvs1       104 111 ; Current Arrow
VS1         111 IGND 93.56515M
VdrophO1    IAVDD 114 915.387691M
VdroplO1    113 IGND 915.387691M
D6         104 105 D_LIMCM_0
D5         105 106 D_LIMCM_0
D3         104 107 D_LIMCM_0
GVCCS4      108 IGND VALUE = {I(VIVCVS3)}
R4          108 IGND 10MEG
GVCCS3      109 IGND VALUE = {I(VIVS1)}
R3          109 IGND 10MEG
GVCCS1      IGND 107 VALUE = {10U*(V(Plus,IGND)-V(107,IGND))}
GVCCS2      IGND 105 VALUE = {10U*(V(Neg,IGND)-V(105,IGND))}
EVCVS3      110 IGND VALUE = {245.3009M+(V(VDD1,GND1))*666.6667M}
R2          105 IGND 1T
D2         107 106 D_LIMCM_0
R1          107 IGND 1T
EVCVS2      MCM 0 VALUE = {1- LIMIT((V(109,IGND)+V(108,IGND)),0,1)}
Ro110       VLCM Neg 1G
Ro11        VLCM Plus 1G
Go13        VM VB VALUE = {50M*V(107,105)*V(MCM,0)}
RGo13       0 0 50M
XD1         113 VB D_LIM1T_0
XD4         VB 114 D_LIM1T_0
Ro15        VM Neg 100G
Ro12        Plus VM 100G
Co11        Neg Plus  10F
Co13        IGND Neg  10F
Co12        Plus IGND  10F
Ro13        NOut VM 1
Go11        VM NOut VM VB  1
Ro14        POut VM 1
Go12        VM POut VB VM  1
Co19        VB VM  7.957747P
RCo19_RPAR  VB VM 1T
Ro19        VB VM 10MEG
.MODEL D_LIMCM_0 D( IS=10f N={Ndc} RS={RSdc} XTI=0 AF=0 KF=0 EG={EGdc})
.ENDS

.SUBCKT D_D2_0 1    2
D1 1 2  D2
.MODEL D2 D( IS=100p N=1.0 XTI=0 RS=10)
.ENDS

.SUBCKT D_ZR_5V3_0 1    2
D1 1 2  D_Z5V3
.MODEL D_Z5V3 D( IS=1P N=1.0 BV=5.3 IBV=1.0M RS=10 XTI=0 EG=0.48 )
.ENDS

.SUBCKT D_D2_1 1    2
D1 1 2  D2
.ENDS
*

.SUBCKT VGAIN_0 INP INN VDD1 GND1 VDD2 GND2 OUTP OUTN FSO
*EG Gain error
*AMC1302, initial, at TA = 25°C –0.3% ±0.05% 0.3%
*GAIN ERROR THERMAL DRIFT
*VS TEMPERATURE: TCGERR –50 ±15 50 PPM/°K AMC1302
.PARAM TCGERR= {-15E-6}
.PARAM EG= {-50E-3/100}
.PARAM Gin0={4.0} ;AMC1300
.PARAM Gin={20.0} ;AMC1302
.PARAM Gout={1.0/1.0}
.PARAM G00={8.2} ;AMC1300
.PARAM G={41} ;AMC1302
.PARAM G0={8.0} ;AMC1200
.PARAM RG1= {1/Gin*Gin/Gin0}
.PARAM RG2= {1}
.PARAM I0 = 1
.PARAM R0 = {1/(I0*Gout)*G/G0/(Gin/Gin0)}
.PARAM Rout = {R0*(1 + 2*TCGERR + 0u)}
.PARAM TC1= {TCGERR/R0/I0*G/G0/(Gin/Gin0)}
.PARAM C25={56.0014427}
.PARAM B25={0.146489}
.PARAM C125={47.45704}
.PARAM B125={0.17289}

.PARAM C0={53.589}
.PARAM BA={206.5114M}
.PARAM B0={149.3714M}
.PARAM V0={5}
.PARAM MB={V0*-2.00U}
.PARAM A0={14.1107M}
.PARAM MA={V0*-2.1169M}
.PARAM D0={-755.0867M}
.PARAM MD={V0*113.2662M}

.PARAM Vclip={302.7m*G00/G}
.PARAM VL={Vclip*Gin}
.PARAM VLFSO={-2.563/R0 - 1m}

GVDD1 0 G1 TABLE {V(VDD1,GND1)} = (3.00 0.9996) (4.00 0.9995) (5.00 0.9995) (5.50 0.9995)
RG1 G1 0 {RG1}
GVDD2 0 G12 TABLE {V(VDD2,GND1)} = (3.00 0.99955) (4.00 0.9995) (5.00 0.99945) (5.50 0.99945)
RG12 G12 0 1.0
G2 0 G2 VALUE = { V(G1)*V(G12)*Limit(V(INP,INN), -VL, VL) }
RG2 G2 0 {RG2}
G1 OUTN OUTP  VALUE = {IF ( V(FSO,GND1) < 0.5, C0*TANH((B0 + MB)*V(G2) +
+A0 + MA) + D0 + MD, VLFSO) }

ROUT OUTP OUTN  RMOD2 {Rout}
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)

Itemp 0 Temp 1
RTemp Temp 0 RTemp 1
.MODEL RTemp RES (TC1={1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_LIM100_05_0 1 2
D1 1 2  D_Lim100_05
.ENDS
*$

.SUBCKT D_LIM1_0 1 2
D1 1 2  D_Lim1
.ENDS
*$

.SUBCKT Q_PMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U
*_L1
M1 D G S B Q_PMOS_Out_L1 W = {W} L = {L} M = {M}
*AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
*M1 D G S B Q_PMOS_Out W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
*+ NRD={LS/W} NRS={LS/W}
RDS D S {RDS}
.ENDS

.SUBCKT Q_NMOS_OUT_L1_0 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M}
*AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
*M1 D G S B Q_NMOS_Out  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
*+ NRD={LS/W} NRS={LS/W}
RDS D S {RDS}
.ENDS
*$

.SUBCKT VOCMTEMP_0 1 2
.PARAM R0 = {1/1.44}
GVocmtemp 1 2 table {TEMP} = (-55,1.43532, -39.6341,1.43680, -24.8955,1.43778, -9.84321,1.43901, 4.89547,1.43975, 19.9477,1.44000,
+ 35,1.44025, 49.8955,1.44037, 65.1045,1.44049, 80.1568,1.44025, 94.8955,1.43988, 109.948,1.43926, 124.686,1.43852)
Rout 1 2 {R0}
.ENDS

.SUBCKT Q_PMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_PMOS_Out_L1 W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
+ NRD={LS/W} NRS={LS/W}
RDS D S {RDS}
.ENDS
*$

.SUBCKT Q_NMOS_OUT_L1_1 D G S B PARAMS:  M = 1 W = 100U L = 10U
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
+ NRD={LS/W} NRS={LS/W}
RDS D S {RDS}
.ENDS
*$

.SUBCKT Q_NMOS_OUT_L1_2 D G S B PARAMS:  M = 1 W = 100U L = 10U
*M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
M1 D G S B Q_NMOS_Out_L1  W = {W} L = {L} M = {M} AD={W*LS} AS={W*LS} PD={W + 2*LS} PS={W + 2*LS}
+ NRD={LS/W} NRS={LS/W}
RDS D S {RDS}
.ENDS
*$

.SUBCKT D_LIM1_1 1 2
D1 1 2  D_Lim1
.ENDS
*$

.SUBCKT D_D2_2 1    2
D1 1 2  D2
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)
.ENDS

.SUBCKT HYSTCOMPG_THLRF_0 inp inm out gnd
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Tdlh=1N Tdhl=1N Trise=1N Tfall=1N
* Trise ->   90%*(VoutH-VoutL), Tfall -> 10%*(VoutH-VoutL)
.PARAM Tdellh = {MAX(Tdlh,MinADel)}
.PARAM Tdelhl = {MAX(Tdhl,MinADel)}
.Param Rdel = {IF ( ((Tdellh > 1E-15)|(Tdelhl > 1E-15)) & (Rout < 1), 1, Rout ) }
.Param Ro = {IF ( ((Trise > 1E-15)|(Tfall > 1E-15)) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Tdmin= 1p
.Param Cdel={Sqrt((Tdelhl+Tdmin)*(Tdellh+Tdmin))/(0.693*(Rdel+1u))}
.Param Gdlh={Sqrt((Tdelhl+Tdmin)/(Tdellh+Tdmin))/Rdel}
.Param Gdhl={(Tdellh+Tdmin)/(Tdelhl+Tdmin)*Gdlh}

.Param Cout={Sqrt(Tfall*Trise)/(2.287*(Ro+1u))}
.Param Gr={Sqrt(Tfall/(Trise+Tdmin))/Ro}
.Param Gf={(Trise+Tdmin)/Tfall*Gr}
Rinp inp gnd 1G
Rinm inm gnd 1G
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gouti gnd outi Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(outi,gnd))*Gdlh, (VoutL - V(outi,gnd))*Gdhl ) }
Couti outi gnd {Cdel}
Routi outi gnd {1e5*Rdel}
Gout gnd out Value= { IF ( (V(outi, gnd) > VoutM), (VoutH - V(out,gnd))*Gr, (VoutL - V(out,gnd))*Gf ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Ro}
.ENDS

.PARAM MinADel = {1n}

.SUBCKT HYSTCOMPGD_0 inp inm out gnd
+ Params: Vthres=0 Vhyst=1 VoutH=5 VoutL=0 Rout=1 Delay=1N
*
.PARAM Tdel = {MAX(Delay,MinADel)}
.Param Rdel = {IF ( (Tdel > 1E-15) & (Rout < 1), 1, Rout ) }
.Param VoutM={(VoutH+VoutL)/2}
.Param VthH={Vthres+Vhyst}
.Param VthL={Vthres-Vhyst}
.Param Cout={Tdel/(0.693*(Rdel+1u))}
.Param Gdlh={1/Rdel}
.Param Gdhl={1*Gdlh}
*
Gthr gnd thr Value= { IF ( V(out,gnd) < {VoutM}, {VthH}, {VthL}) }
Rthr gnd thr 1
Gout gnd out Value= { IF ( (V(inp,inm) > V(thr,gnd)), (VoutH - V(out,gnd))*Gdlh, (VoutL - V(out,gnd))*Gdhl ) }
Cout out gnd {Cout}
Rout out gnd {1e5*Rdel}
.ENDS

.SUBCKT VOST_0 1 2
*Input offset voltage, VOS = –2 ±0.01 2  mV AMC1300, initial, at TA = 25°C, VINP = VINN = GND1
*TCVOS Input offset drift DVOS/DT 4 ±1.3 4 uV/°C AMC1300
*Input offset voltage, VOS = –0.2 ±0.01 0.2 mV AMC1300B, initial, at TA = 25°C, VINP = VINN = GND1
*TCVOS Input offset drift, DVOS/DT = –3 ±1 3 uV/°C AMC1300B

*.PARAM I0 = 1M
.PARAM R0 = 1k
.PARAM DVOS_DT= {1.0U}

.PARAM VOFFS = {-9.4u + 2*DVOS_DT}
*.PARAM R0 = {VOFFS/I0}
.PARAM I0 = {VOFFS/R0}
.PARAM TC1= {DVOS_DT/R0/I0}

R2 40 0 RMOD2 {R0}
I2 40 0 {I0}
E3 1 2 40 0 1
.MODEL RMOD2 RES (TC1={TC1} TC2=0 TCE=0)
.ENDS

.SUBCKT D_D4_0 1    2
D1 1 2  DD
.MODEL DD D( IS=10n N=0.50 RS=1 XTI=0 Eg=0.35)
.ENDS

.SUBCKT D_ZB1_0 1    2
D1 1 2  D_4_9V
CD 1 2 10P
.MODEL D_4_9V D( IS=1n N=1.0 BV=2.4 IBV=1.0m RS=0 XTI=0 EG=0.55)
.ENDS

*.SUBCKT D_LIMCM_0 1 2
*D1 1 2  D_Limcm
*.MODEL D_LIMcm D( IS=10f N={Ndc} RS={RSdc} XTI=0 AF=0 KF=0 EG={EGdc})
*.ENDS

.SUBCKT D_LIM1T_0 1 2
D1 1 2  D_Lim1T
.ENDS

.MODEL D_LIM1T D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=0.555)
*Parameters: 0.4um CMOS
.PARAM LS = 1.0U
.PARAM VTOHP = 0.75
.PARAM VTOHN = 0.75

.PARAM LAMBDA = 10M
.PARAM GAMMA = 0.00
.PARAM KAPPA = 1.0
.PARAM THETA = 0.23
.PARAM ETA = 3
.PARAM KPN = {UON*COX * 1e-4}
.PARAM KPP = {UOP*COX * 1e-4}
.PARAM LDN = 0.09U
.PARAM LDP = 0.09U
.PARAM RSW = 1810
.PARAM RSN = 1.41
.PARAM RDS = 10MEG
.PARAM VBMUL = 1E6
.PARAM RPAR = 1T
.PARAM CBDJ = 1.0
.PARAM CBDS = 1.0
.PARAM CGBF = 1.0
.PARAM PBP = 0.7
.PARAM PBN = 0.7
.PARAM UON = 450
.PARAM UOP = 450
*.PARAM UOP = 150
*
.PARAM CJN = {200U}
.PARAM CJP = {400U}
.PARAM CJSWN = {1.2N}
.PARAM CJSWP = {2.4N}
.PARAM XJN = 0.15U
.PARAM CGSON = {0.6*XJN*COX}
.PARAM CGDON = {CGSON}
.PARAM CGBON = {CGBF*CGDON}
.PARAM XJP = 0.18U
.PARAM CGSOP = {0.6*XJP*COX}
.PARAM CGDOP = {CGSOP}
.PARAM CGBOP = {CGBF*CGDOP}
.PARAM EPSSIO2 = {3.9*8.854214871E-12}
.PARAM TOX = 80E-10
.PARAM COX = {EPSSIO2/TOX}
*$
.MODEL Q_NMOS NMOS Level=1 L=2U W=10U KP={KPN} VTO={VTOHN}  AF=0 KF=0
*$
.MODEL Q_PMOS PMOS Level=1 L=2U W=10U KP={KPP} VTO={-VTOHP}  AF=0 KF=0
*$
.MODEL Q_NMOS_Out_L1 NMOS LEVEL=1 L=10U W=100U KP={KPN} VTO={VTOHN} LAMBDA={LAMBDA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN}
*$
.MODEL Q_NMOS_Out NMOS LEVEL=3 L=10U W=100U KP={KPN} VTO={VTOHN} THETA={THETA}
+ CJ={CJN} CJSW={CJSWN} CGSO={CGSON} CGDO={CGDON} RSH= 4 PB={PBN} LD= {LDN} TOX={TOX} XJ={XJN}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL Q_PMOS_Out_L1 PMOS LEVEL=1 L=10U W=100U KP={KPP} VTO={-VTOHP} LAMBDA={LAMBDA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP}
*$
.MODEL Q_PMOS_Out PMOS LEVEL=3 L=10U W=100U KP={KPP} VTO={-VTOHP} THETA={THETA}
+ CJ={CJP} CJSW={CJSWP} CGSO={CGSOP} CGDO={CGDOP} RSH=4 PB={PBP} LD= {LDP}  TOX={TOX} XJ={XJP}
+ GAMMA={GAMMA} KAPPA={KAPPA} ETA={ETA}
*$
.MODEL D_Lim1 D( IS=10F N=1.0 RS=1000 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim100 D( IS=10F N=1.0 RS=100 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim1005 D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
*$
.MODEL D_Lim100_05 D( IS=10F N=0.5 RS=100 XTI=0 AF=0 KF=0 EG=0.555)
*$
.MODEL D_Lim10 D( IS=10F N=1.0 RS=10 XTI=0 AF=0 KF=0 EG=1.11)
*$
.MODEL D_Lim2 D( IS=10f N=0.5 RS=1 XTI=0 AF=0 KF=0 EG=0.555 )
*$
.MODEL D_Lim3 D( IS=1E-18 N=1.0 RS=1 XTI=0 AF=0 KF=0)
*$
.MODEL D_Lim4 D( IS=10F N=1.0 RS=1m XTI=0 AF=0 KF=0)
*$
.MODEL D1 D( IS=1p N=1.0 RS=0 XTI=3 AF=0 KF=0 )
*$
.MODEL DZ_14V D( IS=1p N=1.0 BV=14.0 IBV=5.0M XTI=0 RS=10)
.MODEL DZ_80V D( IS=1p N=1.0 BV=80.0 IBV=5.0M XTI=0 RS=10)
*$
.MODEL D2 D( IS=1p N=1.0 XTI=0 RS=10)

